US05840751
5,6-Dihydro-6-pentyl-6-phenyl-2H-pyran-2-one, (+/-)
The title compound was prepared as described in General Method 1 using 10 mmol of methyl acetoacetate, 11 mmol of NaH 60% dispersion in oil, 10.5 mmol of 1.6M n-butyl lithium in hexane, 10 mmol of hexanophenone and 28 mL of tetrahydrofuran. Upon concentrating the reaction a solid precipitated out which was triturated with ether and filtered (m.p. 123°-124° C.). 1H NMR (CDCl3) δ 0.83 (t, 3 H), 1.1-1.4 (m, 6 H), 1.9-2.0 (m, 2 H), 2.90 (d, 1 H), 2.92 (d, 1 H), 3.25 (d, 1 H), 3.35 (d, 1 H), 7.2-7.5 (m, 5 H).

reactant | methyl acetoacetate | 10 mmol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 11 mmol | [H-].[Na+]
reactant | n-butyl lithium | 10.5 mmol, 1.6M | C(CCC)[Li]
reactant | hexanophenone | 10 mmol | C(CCCCC)(=O)C1=CC=CC=C1 | C12H16O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 28 mL | O1CCCC1 | C4H8O
product | 5,6-Dihydro-6-pentyl-6-phenyl-2H-pyran-2-one | C(CCCC)C1(CC=CC(O1)=O)C1=CC=CC=C1 | C16H20O2
